US09108981B2
(S)-Phenyl 1-(3-chloro-2-fluoro-6-methylphenyl)-3-oxopropylcarbamate
3-Chloro-2-fluoro-6-methylbenzaldehyde: (Reference: E. J. Org. Chem 2005, 2116-2123) To a solution of 2,2,6,6-tetramethylpiperidine (0.642 mL, 3.80 mmol) in THF (15 mL) at −78° C. was added n-BuLi (2.162 mL, 3.46 mmol) dropwise. The resulting solution was stirred at −78° C. for 1 h and added 1-chloro-2-fluoro-4-methylbenzene (0.5 g, 3.46 mmol) dropwise. The solution was stirred for additional 0.5 h and then added DMF (0.536 mL, 6.92 mmol). The reaction was stirred at −78° C. for 1.5 h and at ambient temperature for 12 h. The mixture was diluted with water and extracted with EtOAc (3×). The combined organic layer was washed with brine and concentrated. The residue was purified by silica gel chromatography to yield the desired product (43 mg, 7%).

reactant | 3-Chloro-2-fluoro-6-methylbenzaldehyde | ClC=1C(=C(C=O)C(=CC1)C)F | C8H6ClFO
reactant | 2,2,6,6-tetramethylpiperidine | 3.80 mmol, 0.642 mL | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | n-BuLi | 3.46 mmol, 2.162 mL | [Li]CCCC
reactant | 1-chloro-2-fluoro-4-methylbenzene | 3.46 mmol, 0.5 g | ClC1=C(C=C(C=C1)C)F | C7H6ClF
reactant | DMF | 6.92 mmol, 0.536 mL | CN(C)C=O | C3H7NO
reactant | THF | 15 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | (S)-Phenyl 1-(3-chloro-2-fluoro-6-methylphenyl)-3-oxopropylcarbamate | 43 mg, 7% | ClC=1C(=C(C(=CC1)C)[C@H](CC=O)NC(OC1=CC=CC=C1)=O)F | C17H15ClFNO3
